US08119692B2
4-(tert-Butyl-diphenyl-silanyloxy)-1-(4-chloro-phenyl)-butan-1-ol (Intermediate C11)
To a suspension of Mg turnings (145 mg, 6.0 mg-at.) and catalytic amount of iodine in 20 mL THF was added dropwise 1-Bromo-4-chloro-benzene (382 mg, 2.0 mmol) with heating over a period of 30 min. After stirring for an additional 30 min at 63° C. the mixture was cooled to −30° C. and 4-(tert-Butyl-diphenyl-silanyloxy)-butyraldehyde (500 mg, 1.53 mmol) was added slowly as a solution in 5 mL THF. The temperature was maintained at −30° C. for 1 h and slowly raised to room temperature. The excess Grignard reagent was destroyed by careful addition of saturated aqueous NH4Cl (20 mL). The mixture was extracted with ethyl acetate (3×30 mL) and the combined organic layers washed with brine (2×20 mL). After removal of the solvent under reduced pressure the product was isolated by flash column chromatography eluting with 0 to 50% EtOAc/hexanes to afford 330 mg of the title compound as a light yellow oil.

reactant | iodine | II | I2
reactant | 1-Bromo-4-chloro-benzene | 2.0 mmol, 382 mg | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | 4-(tert-Butyl-diphenyl-silanyloxy)-butyraldehyde | 1.53 mmol, 500 mg | C(C)(C)(C)[Si](OCCCC=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H26O2Si
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(tert-Butyl-diphenyl-silanyloxy)-1-(4-chloro-phenyl)-butan-1-ol | 330 mg | C(C)(C)(C)[Si](OCCCC(O)C1=CC=C(C=C1)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H31ClO2Si
